US06762180B1
(1) 4-(1-ethyl-imidazol-2-yl)-nitrobenzene
Prepared from 4-(imidazol-2-yl)-nitrobenzene and ethyl iodide

reactant | 4-(imidazol-2-yl)-nitrobenzene | N1C(=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2
reactant | ethyl iodide | C(C)I | C2H5I
product | 4-(1-ethyl-imidazol-2-yl)-nitrobenzene | C(C)N1C(=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H11N3O2
